US08053431B2
5-(1,3,3-Trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-1H-indole-2-carboxylic Acid
To a solution of 5-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-1H-indole-2-carboxylic acid ethyl ester (500 mg, 1.35 mmol) in ethanol (10 mL) was added 1N aqueous sodium hydroxide solution (10 mL), and the resulting solution stirred for 16 h. The solution was acidified with 1N hydrochloric acid solution before the organic volatiles were removed in vacuo and the aqueous residues were extracted with DCM (3×5 mL). The combined organic phases were dried (MgSO4), filtered and evaporated in vacuo. The resulting solid was dried in vacuo at 50° C. affording 460 mg (100%) of the title compound as a solid. MS-ESI m/z 341; 1H NMR (300 MHz, DMSO-d6) δ 0.88-0.99 (m, 6H), 1.07 (d, 3H), 1.16-1.19 (m, 1H), 1.27-1.50 (m, 4H), 1.74-1.77 (m, 1H), 3.10-3.19 (m, 1H), 3.40-3.48 (m, 1H), 3.99-4.07 (m) and 4.38-4.40 (m, 1H), 7.16 (s, 1H), 7.32-7.37 (m, 1H), 7.42-7.48 (m, 1H), 7.77 (d, 1H), 11.93 (s, 1H), 13.04 (s, 1H).

reactant | 5-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-1H-indole-2-carboxylic acid ethyl ester | 1.35 mmol, 500 mg | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C22H28N2O3
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(1,3,3-Trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-1H-indole-2-carboxylic Acid | 460 mg, 100% | CC12CC(CC(N(C1)C(=O)C=1C=C3C=C(NC3=CC1)C(=O)O)C2)(C)C | C20H24N2O3
